datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[H:17])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]=[C:3]([C:4]([H:8])([H:9])[H:10])[C:12]([C:11]([H:14])([H:15])[H:16])([C:13]([H:18])([H:19])[H:20])[H:17])[H:7])([H:5])[H:6],17.6565
[C:0]([S:1][S:2][H:6])([H:3])([H:4])[H:5].[C:7]([H:8])([H:9])[H:10]>>[C:0]([S:1][C:7]([H:8])([H:9])[H:10])([H:3])([H:4])[H:5].[S:2][H:6],16.3176
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20](=[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])[H:27])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:22]([C:21](=[C:20]([H:25])[H:26])[H:27])([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])[H:10])([H:8])[H:9],36.359
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:18])[H:5].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[H:19])([H:15])([H:16])[H:17],60.668
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9](=[C:10]([C:11]([H:22])([H:23])[H:24])[c:12]1[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]1[H:29])[H:21])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[C:10]([C:9]([C:8]([H:18])([H:19])[H:20])[H:21])([C:11]([H:22])([H:23])[H:24])[c:12]1[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]1[H:29])([H:3])[H:4],22.5099
[C:0]([C:1]([C:2](=[C:3]([C:4]([C:5](=[C:6]([C:7]([H:18])([H:19])[H:20])[H:17])[H:16])([H:14])[H:15])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]1([H:11])[C:2]([H:12])=[C:3]([H:13])[C:4]([H:14])([H:15])[C:5]1([C:6]([C:7]([H:18])([H:19])[H:20])[H:17])[H:16])([H:8])([H:9])[H:10],92.048
[C:0](=[C:1]1[C:2]([H:9])[C:3]([H:10])([H:11])[C:4]([C:5]([H:12])([H:13])[H:14])=[C:6]1[H:15])([H:7])[H:8]>>[C:0](=[C:1]1[C:2]([H:9])=[C:3]([H:11])[C:4]([C:5]([H:12])([H:13])[H:14])=[C:6]1[H:15])([H:7])[H:8].[H:10],191.2088
[C:0]1=[C:1]([H:9])[C:2]([H:10])([H:11])[C:3]2([H:12])[C:4]([H:13])=[C:5]([H:14])[C:6]([H:15])=[C:7]([H:16])[C:8]12[H:17]>>[C:0]1([H:17])=[C:1]([H:9])[C:2]([H:10])([H:11])[C:3]2([H:12])[C:4]([H:13])=[C:5]([H:14])[C:6]([H:15])=[C:7]([H:16])[C:8]12,182.581392
[C:5](=[C:6]([H:8])[H:9])[H:7].[S:0]=[C:1]([S:2][H:4])[H:3]>>[H:4][C:5](=[C:6]([H:8])[H:9])[H:7].[S:0]=[C:1]([S:2])[H:3],-16.736
[C:0](=[C:1]=[C:2]([C:3]([H:12])([H:13])[H:14])[c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:10])[H:11].[C:20](=[C:21][C:22]([H:25])([H:26])[H:27])([H:23])[H:24]>>[C:0](=[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[C:21](=[C:20]([H:23])[H:24])[C:22]([H:25])([H:26])[H:27])([H:10])[H:11],26.1918
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4](=[C:5]([C:6]([C:7](=[C:8]([C:9]([H:20])([H:21])[H:22])[H:19])[H:18])([H:16])[H:17])[H:15])[H:14])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])=[C:5]([H:15])[C:6]([H:16])([H:17])[C:7]([H:18])[C:8]1([C:9]([H:20])([H:21])[H:22])[H:19])[H:10],119.997
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])([H:11])[C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18])[H:7],13.1796
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19]([H:20])([H:21])[H:22]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:11][C:19]([H:20])([H:21])[H:22],77.8642
[C:0]([S:1]([C:2]([H:8])([H:9])[H:10])(=[O:3])[O:4][H:11])([H:5])([H:6])[H:7].[O:12][O:13]>>[C:0]([S:1]([C:2]([H:8])([H:9])[H:10])(=[O:3])=[O:4])([H:5])([H:6])[H:7].[H:11][O:12][O:13],9.81
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10](=[C:11][C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0](#[C:1][C:2]=[C:3]([C:4](=[C:5]([H:8])[H:9])[H:7])[C:11](=[C:10]([H:13])[H:14])[C:12]([H:15])([H:16])[H:17])[H:6],5.06264
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([O:4][H:10])[H:6])[H:5].[C:11]([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:5].[O:4]([H:10])[C:11]([H:12])([H:13])[H:14],141.462
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([C:6]([C:7](=[C:8]([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([C:8]([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:21])[H:11],56.9442
